US07652143B2
Ethyl 2-(3-(4-hydroxybenzyl)-2-oxoimidazolidin-1-yl)-3-methylbutyrate (50 mg; 0.15 mmol) was dissolved in DMSO (1 ml). 4-Chloromethylpyridine hydrochloride (39 mg; 0.23 mmol), potassium carbonate (86 mg; 0.62 mmol) and potassium iodide (8 mg, 0.4 mmol) were successively added thereto. The mixture was heated at 50° C. for 3 h. Cooling to RT was followed by partitioning between water (10 ml) and EtOAc (10 ml). The phases were separated and the aqueous phase was extracted with EtOAc (3×; 5 ml). The combined organic phases were dried over MgSO4, and the solvent was removed under reduced pressure. Purification of the residue by column chromatography (SiO2) resulted in ethyl 3-methyl-2-{2-oxo-3-(4-(pyridin-4-ylmethoxy)benzyl)imidazolidin-1-yl}-butyrate (45 mg; 0.11 mmol). MS: 412.50 (M+H); Rt: 1.04 min (method: gradient 0 min 96% H2O (0.05% TFA) 2.0 min 95% acetonitrile, 95% acetonitrile to 2.4 min, 4% acetonitrile 2.45 min; flow rate 1 ml/min; column 0.4 μL (YMC J'sphere ODS H80 20X2 1.4μ); 30° C.)

reactant | Ethyl 2-(3-(4-hydroxybenzyl)-2-oxoimidazolidin-1-yl)-3-methylbutyrate | 0.15 mmol, 50 mg | OC1=CC=C(CN2C(N(CC2)C(C(=O)OCC)C(C)C)=O)C=C1 | C17H24N2O4
reactant | 4-Chloromethylpyridine hydrochloride | 0.23 mmol, 39 mg | Cl.ClCC1=CC=NC=C1
reactant | potassium carbonate | 0.62 mmol, 86 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.4 mmol, 8 mg | [I-].[K+]
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | ethyl 3-methyl-2-{2-oxo-3-(4-(pyridin-4-ylmethoxy)benzyl)imidazolidin-1-yl}-butyrate | 0.11 mmol, 45 mg | CC(C(C(=O)OCC)N1C(N(CC1)CC1=CC=C(C=C1)OCC1=CC=NC=C1)=O)C | C23H29N3O4
